US06506901B2
Step D: 1-(2,6-Difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-1-methyl-urea
The title compound was prepared from 1-(2,6-difluoro-benzyl)-3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-1-methyl-urea (0.250 g, 0.5 mmol), sodium iodide (0.188 g, 1.26 mmol), and trichloromethylsilane (0.118 mL, 1.0 mmol) according to the procedure used for example 84 (Step D) and used directly in the next step.

reactant | 1-(2,6-difluoro-benzyl)-3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-1-methyl-urea | 0.5 mmol, 0.250 g | FC1=C(CN(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)C(OC)OC)C)C(=CC=C1)F | C23H29F2N3O5S
reactant | sodium iodide | 1.26 mmol, 0.188 g | [I-].[Na+]
reactant | trichloromethylsilane | 1.0 mmol, 0.118 mL | ClC(Cl)(Cl)[SiH3] | CH3Cl3Si
product | 1-(2,6-Difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-1-methyl-urea | FC1=C(CN(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)C=O)C)C(=CC=C1)F | C21H23F2N3O4S
